US04355041
4,5-Bis-(4-fluorophenyl)-1-(4-nitrobenzyl)-2-[(1,1,2,2-tetrafluoroethyl)sulfonyl]-1H-imidazole
4.20 g (0.01 mole) of 4,5-bis-(4-fluorophenyl)-2-[(1,1,2,2-tetrafluoroethyl)sulfonyl]-1H-imidazole, prepared according to the method described in U.S. Pat. No. 4,190,666, 2.7 g (0.0125 mole) of 4-nitrobenzylbromide, 1.73 g (0.0125 mole) of anhydrous powdered potassium carbonate, and 50 ml of dimethylformamide were combined in a round bottom flask and stirred and heated under nitrogen in an oil bath at 75° C. for 20 hours. The reaction mixture was cooled to room temperature and poured into 500 ml of water. The product was extracted with methylene chloride. The methylene chloride solution was washed several times with water to remove dimethylformamide, dried over sodium sulfate, filtered, and evaporated on a rotary evaporator. The remaining oil was triturated with ether, which caused the product to crystallize. The white solid was filtered, washed with ether, and dried to yield 4.9 g, m.p. 169°-170°. The product was freed from a small amount, usually less than 1% of 4,5-bis-(4-fluorophenyl)-2-[ (1,1,2,2-tetrafluoroethyl)sulfonyl]-1H-imidazole by dissolving it in a small amount of methylene chloride and putting the solution through a preparative liquid chromatography apparatus using toluene to elute. After evaporating the toluene from the main fraction on a rotary evaporator, 4.4 g of product, m.p. 176°-177° was obtained. A mass spectrum of the product showed it to have a m/e of 555.4 and also showed it to contain no measurable starting imidazole, m/e 420.3.

reactant | 4,5-bis-(4-fluorophenyl)-2-[(1,1,2,2-tetrafluoroethyl)sulfonyl]-1H-imidazole | 0.01 mole, 4.20 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)F)S(=O)(=O)C(C(F)F)(F)F | C17H10F6N2O2S
reactant | 4-nitrobenzylbromide | 0.0125 mole, 2.7 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 0.0125 mole, 1.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4,5-Bis-(4-fluorophenyl)-1-(4-nitrobenzyl)-2-[(1,1,2,2-tetrafluoroethyl)sulfonyl]-1H-imidazole | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)CC1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C(C(F)F)(F)F | C24H15F6N3O4S
